US07910741B2
1-(4-(4-methylsulfonylaminophenoxy)benzyl)piperidin-4-ol
To a solution of 4-(4-methylsulfonylaminophenoxy)benzaldehyde (2.50 g) in dimethyl formamide (25 mL) were added 4-hydroxypiperidine (1.74 g) and acetic acid (2.5 mL), and the solution was stirred. To the reaction solution was added sodium triacetoxyborohydride (2.18 g) and the solution was stirred for 2 days. After finishing the reaction, the reaction solution was neutralized with 2N aqueous solution of sodium hydroxide and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated. The obtained residue was purified by column chromatography on silica gel (methylene chloride:methanol=10:1) to give the title compound (1.90 g) having the following physical data.

reactant | 4-(4-methylsulfonylaminophenoxy)benzaldehyde | 2.50 g | CS(=O)(=O)NC1=CC=C(OC2=CC=C(C=O)C=C2)C=C1 | C14H13NO4S
reactant | 4-hydroxypiperidine | 1.74 g | OC1CCNCC1 | C5H11NO
reactant | sodium triacetoxyborohydride | 2.18 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethyl formamide | 25 mL | CN(C=O)C | C3H7NO
solvent | acetic acid | 2.5 mL | C(C)(=O)O | C2H4O2
product | 1-(4-(4-methylsulfonylaminophenoxy)benzyl)piperidin-4-ol | 1.90 g | CS(=O)(=O)NC1=CC=C(OC2=CC=C(CN3CCC(CC3)O)C=C2)C=C1 | C19H24N2O4S
